US05990101
A 0.42 ml portion of hydrazine hydrate was added to 30 ml of a dry ethanol solution containing 1.7 g of 3-phthalimidomethyl-2-methylimidazo[5,1-b]thiazole, and the mixture was then heated under reflux for 2 hours. The reaction solution was cooled on ice, and the resulting crystal was filtered and then washed with a small amount of cold methanol. The filtrate was concentrated under reduced pressure, and to the resulting residue, dichloromethane was added. The solution was extracted with 1N hydrochloric acid, and the extract was then alkalified with a 1N aqueous potassium hydroxide solution. The organic layer extracted from the aqueous layer with dichloromethane was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was evaporated under reduced pressure to obtain 820 mg of 3-aminomethyl-2-methylimidazo[5,1-b]thiazole as a green powder.

reactant | hydrazine hydrate | O.NN
reactant | 3-phthalimidomethyl-2-methylimidazo[5,1-b]thiazole | 1.7 g | C1(C=2C(C(N1CC=1N3C(SC1C)=CN=C3)=O)=CC=CC2)=O | C15H11N3O2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-aminomethyl-2-methylimidazo[5,1-b]thiazole | 820 mg | NCC=1N2C(SC1C)=CN=C2 | C7H9N3S
